US07482366B2
3-Bromo-5-trifluoromethyl-phenylamine (4.0 mL, 28.3 mmoles) was dissolved into concentrated HCl (70 mL). This solution was chilled to 0° C. and to it was slowly added a solution of sodium nitrite (2.5 g, 36.2 mmoles) in 50 mL of water. After completion of the addition enough ethanol (90%) was added (25 mL) to affect nearly complete dissolution of the resultant mixture. The mixture was stirred at 0° C. for an additional 20 minutes. After this period the heterogeneous mixture was quickly transferred (cold) to an addition funnel. The diazonium mixture was added to a solution of O-ethylxanthic acid, potassium salt (5.7 g, 35.6 mmoles) in 50 mL of water at 60° C. The mixture was next heated to 90° C. and was stirred at this temperature for 2 hours. After this period the mixture was allowed to cool to ambient temperature, and the crude xanthate (a red liquid) was removed from the bottom of the aqueous mixture via pipette. The crude product taken up in 100 mL of diethyl ether and was washed with water (2×25 mL) and brine (20 mL). The ether layer was evaporated in vacuo to yield crude xanthate. The crude product was purified using flash silica chromatography (0-1% EtOAc/Hexane) to yield 4.7 g (51% yield) of dithiocarbonic acid S-(3-bromo-5-trifluoromethyl-phenyl)ester O-ethyl ester as a red liquid. 1H-NMR (CDCl3): δ 7.83(d, J=5.8 Hz, 2H), 7.71 (s, 1H), 4.63 (q, J=7.1 Hz, 2H), 1.36 (t, J=7.1 Hz, 3H).

reactant | 3-Bromo-5-trifluoromethyl-phenylamine | 28.3 mmoles, 4.0 mL | BrC=1C=C(C=C(C1)C(F)(F)F)N | C7H5BrF3N
reactant | HCl | 70 mL | Cl | ClH
reactant | sodium nitrite | 36.2 mmoles, 2.5 g | N(=O)[O-].[Na+]
reactant | O-ethylxanthic acid | C(C)OC(=S)S | C3H6OS2
reactant | potassium | 35.6 mmoles, 5.7 g | [K] | K
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | dithiocarbonic acid S-(3-bromo-5-trifluoromethyl-phenyl)ester O-ethyl ester | 4.7 g, 51% yield | C(C)OC(SC1=CC(=CC(=C1)C(F)(F)F)Br)=S | C10H8BrF3OS2
